US08207269B2
2-methyl-3,5,6,7-tetrahydro-s-indacen-1(2H)-one
Methacryloyl chloride (50 ml, 0.5 mol) was added to suspension of 133.5 r AlCl3 (1 mol) in 500 ml CH2Cl2 at −78° C., stirred 20 min. Then indane (59 g, 0.5 mol) was added at the same temperature, allowed to warm to room temperature and then was stirred overnight. Next day the mixture obtained was poured carefully into mixture of ice (1000 g) and HCl (200 ml). The organic phase was separated, washed by water, 5% NaHCO3, and dried over MgSO4. Solvent was evaporated and residue was distilled in vacuum given 77.6 of product (83%), b.p. 118-120° C./0.5 torr.

reactant | Methacryloyl chloride | 0.5 mol, 50 ml | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | AlCl3 | 1 mol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | indane | 0.5 mol, 59 g | C1CCC2=CC=CC=C12 | C9H10
reactant | HCl | 200 ml | Cl | ClH
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-3,5,6,7-tetrahydro-s-indacen-1(2H)-one | CC1C(C2=CC=3CCCC3C=C2C1)=O | C13H14O
